US05840764
A solution of 2-amino-3-hydroxybenzonitrile (1.00 g, 0.0075 mol) and diethyl squarate (1.10 ml, 0.0075 mol) in dry ethanol (20 ml) was heated at 85° C. for three days. During the course of the reaction, a tan precipitate forms. The solid is filtered through a Buchner funnel, washed with cold ethanol, adsorbed on silica gel, and flash chromatographed using hexane/ethyl acetate (2:1) as the eluant to give 3-ethoxy-4-(2-hydroxy-6-cyanophenyl)amino-3-cyclobutene-1,2-dione, 0.50 g (0.0019 mol, 26%).

reactant | 2-amino-3-hydroxybenzonitrile | 0.0075 mol, 1.00 g | NC1=C(C#N)C=CC=C1O | C7H6N2O
reactant | diethyl squarate | 0.0075 mol, 1.10 ml | CCOC1=C(C(=O)C1=O)OCC | C8H10O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-ethoxy-4-(2-hydroxy-6-cyanophenyl)amino-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1NC1=C(C=CC=C1C#N)O)=O)=O | C13H10N2O4
